US04599448
17.3 g (0.1 mol) of N-but-2-enylidene-2,6-dimethylaniline were added dropwise to a solution of 11.3 g (0.1 mol) of chloroacetyl chloride in 10 ml of toluene at 20° C. The mixture was further stirred at 20° C. for 1 hour and 10.1 g (0.1 mol) of triethylamine were then added dropwise. The mixture was further stirred at 20° C. for 1 hour and the precipitate which separated off was filtered off under suction. The filtrate was washed with dilute aqueous bicarbonate solution and then with water, and was subsequently concentrated in vacuo. The residue was recrystallized from hexane. 12.4 g (49.7% of theory) of N-(1,3-butadienyl)-N-(2,6-dimethylphenyl)chloroacetamide were obtained in the form of colorless crystals of melting point 88° C.

reactant | N-but-2-enylidene-2,6-dimethylaniline | 0.1 mol, 17.3 g | C(C=CC)=NC1=C(C=CC=C1C)C | C12H15N
reactant | chloroacetyl chloride | 0.1 mol, 11.3 g | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-(1,3-butadienyl)-N-(2,6-dimethylphenyl)chloroacetamide | 12.4 g, 49.7% | C(=CC=C)N(C(CCl)=O)C1=C(C=CC=C1C)C | C14H16ClNO
